data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_180014_1,[C@:1]([C:2]([H:13])([H:14])[H:15])([C:6](=[C:5]([C:3]([H:16])([H:17])[H:21])[C:4]([H:18])([H:19])[H:20])[H:11])(/[C:7](=[N:8]\[H:10])[H:12])[H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:6](\[C:5]([C:3]([H:16])([H:17])[H:21])([C:4]([H:18])([H:19])[H:20])/[C:7](=[N:8]\[H:10])[H:12])[H:11])[H:9],72.07402250001508
MR_144208_1,[C:1](/[C:4](=[C:3]([C:6](=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])/[H:12])\[O:8][H:9])[N:5]([H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([N:5]([H:10])[H:11])[C:3]([O:8][H:9])=[C:6]([H:12])[C:7]1([C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16],47.68121500000021
MR_96082_1,[C:1]([C:2]([O:6][H:9])([H:10])[H:11])([C:3]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:12])[O:5][H:8]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([C:2]([O:6][H:9])([H:10])[H:11])=[O:7])([O:5][H:8])[H:12],52.4207224999833
MR_27171_0,[C:1](/[N:8]=[C:4](\[C:5]([C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])[H:10])[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:8]1[C:4]([O:7][H:9])=[C:5]([C:2]([H:14])([H:15])[H:16])[C@:6]1([C:3]([H:17])([H:18])[H:19])[H:10])([H:11])([H:12])[H:13],48.23278749999872
MR_675850_2,[C:1](/[C:3](=[C:5](\[N:4]([H:10])[H:11])[H:12])[O:7][C:2](=[C:6]([H:16])[H:17])[O:8][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:3]1(/[C:5](=[N:4]/[H:10])[H:12])[C:2]([C:6]([H:11])([H:16])[H:17])([O:8][H:9])[O:7]1)([H:13])([H:14])[H:15],61.15803250003864
MR_335624_0,[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([H:9])[H:10])([O:5][O:4][O:6][H:7])[H:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:4][O:6][H:7])([O:5][N:3]([H:9])[H:10])[H:8],65.25560750003734
MR_557104_2,[C:1]1([O:7][H:8])([H:9])[C:4]([H:10])=[C:3]([C:2]([H:11])([H:12])[H:13])[O:6][O:5]1>>[C:1](=[C:4](/[C:3]1([C:2]([H:11])([H:12])[H:13])[O:5][O:6]1)[H:10])(\[O:7][H:8])[H:9],47.95731500001651
MR_700321_2,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([N:6]([C:2]([H:12])([H:13])[H:14])[N:8]([H:10])[H:11])[C:7]([C:5]([H:21])([H:22])[H:23])=[O:9]>>[C:1]1([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[C@:7]([C:5]([H:21])([H:22])[H:23])([N:6]([C:2]([H:12])([H:13])[H:14])[N:8]([H:10])[H:11])[O:9]1,64.21081999999998
MR_615374_0,[C:1]([N:2]([O:4][C:3](=[O:6])[H:8])[O:5][H:7])([H:9])([H:10])[H:11]>>[C:1]([N:2]([O:5][H:7])[O:6][C:3](=[O:4])[H:8])([H:9])([H:10])[H:11],39.13529249996103
MR_393776_0,[C:1]([C:2]([H:11])([H:12])[H:13])([O:4]/[C:3](=[N:6]/[H:9])[H:10])([O:5][H:7])[H:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:5][H:7])([N:6]([C:3](=[O:4])[H:10])[H:9])[H:8],43.95700250002193
MR_331472_0,[C:1]([O:3][H:6])(/[N:5]=[N:4]/[N:2]([H:7])[H:8])([H:9])[H:10]>>[C:1](\[O:3][H:6])(=[N:5]/[N:4]([N:2]([H:7])[H:8])[H:10])[H:9],62.955192499995576
MR_601593_1,[C:1]([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])=[C:5](/[C:7](=[C:6](/[N:4]([H:12])[H:13])[H:15])[H:16])[H:14]>>[C:1]1([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])[C:5]([H:14])=[C:7]([H:16])[C@:6]1([N:4]([H:12])[H:13])[H:15],42.82059999996619
MR_610926_1,[C:1](/[C:6](=[N:7]\[N:2]([N:3]([N:5]([H:11])[H:12])[H:8])[N:4]([H:9])[H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]([N:3]([N:5]([H:11])[H:12])[H:8])(/[N:7]=[N:2]/[N:4]([H:9])[H:10])[H:13])([H:14])([H:15])[H:16],34.237027500022066
MR_447320_0,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:7]1([H:11])[C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[N:9]1[H:12])[O:8][H:10]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])(/[C:7]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[H:11])=[N:9]\[H:12])[O:8][H:10],63.70756500002216
MR_77157_0,[C:1]1([O:5][H:6])([H:8])[C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[N:4]1[H:7]>>[C:1](/[C:2]([C:3]([H:10])([H:11])[H:12])=[N:4]\[H:7])([O:5][H:6])([H:8])[H:9],61.55649499999569
MR_425178_1,[C@:1]([C:2]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])([C:7](=[O:9])[H:14])/[C:8](=[C:4](/[C:3]([H:19])([H:20])[H:21])[N:6]([H:12])[H:13])[H:15]>>[C:1](\[C:2]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])=[C:8](/[C@:4]([C:3]([H:19])([H:20])[H:21])([N:6]([H:12])[H:13])[C:7](=[O:9])[H:14])[H:15],54.14823000000908
MR_344939_1,[C:1]([C:2]([O:4][H:7])[N:5][H:8])([C:3]([N:6][H:9])[H:12])([H:10])[H:11]>>[C:1](=[C:2]([O:4][H:7])[N:5](/[C:3](=[N:6]\[H:9])[H:12])[H:8])([H:10])[H:11],61.65564000003073
MR_594569_1,[N:1]1([N:4]([H:10])[H:11])[C:3](=[C:6]([H:13])[H:14])[O:7][C:2]([O:8][H:9])=[C:5]1[H:12]>>[N:1](\[N:4]([H:10])[H:11])=[C:5](/[C:2]1([O:8][H:9])[C:3](=[C:6]([H:13])[H:14])[O:7]1)[H:12],68.97479999999263
MR_123679_1,[C:1]1([H:10])([H:11])[N:2]([H:8])[C:4](=[O:7])[C:6]1(/[C:5](=[N:3]/[H:9])[H:12])[H:13]>>[C:1]1([H:10])([H:11])[N:2]([H:8])[C:4](=[O:7])[N:3]([H:9])[C:5]([H:12])=[C:6]1[H:13],52.06304749999461
MR_49245_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([O:8][H:9])[C:2]([C:4]([H:15])([H:16])[H:19])([C:5]([H:17])([H:18])[H:20])[C:7]([H:11])=[C:6]1[H:10]>>[C:1]([C:2]([C:4]([H:15])([H:16])[H:19])([C:5]([H:17])([H:18])[H:20])[C:7](=[C:6]([H:9])[H:10])[H:11])([C:3]([H:12])([H:13])[H:14])=[O:8],65.53421750001164
